US07947676B2
N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-(2-piperazin-1-ylethoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and piperazine to give the title compound in 42% yield; NMR Spectrum: 2.40 (br s, 4H), 2.64-2.65 (m, 4H), 2.75 (t, 2H), 4.41 (t, 2H), 5.28 (s, 2H), 7.24 (d, 1H), 7.36 (t, 1H), 7.55-7.58 (m, 2H), 7.86-7.91 (m, 2H), 8.29 (s, 1H), 8.51 (br s, 1H), 8.59 (d, 1H); Mass Spectrum: 481 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-(2-piperazin-1-ylethoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 42% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN2CCNCC2 | C23H25ClN8O2
